US08067448B2
4-((1R,2S)-1-(5-(4-Bromophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-2-chloro-3-methylbenzonitrile
To a solution of 4-((1R,2S)-1-(5-(4-bromophenyl)-1,3,4-oxadiazol-2-yl)-2-(tert-butyldimethylsilyloxy)propylamino)-2-chloro-3-methylbenzonitrile (1.63 g, 2.9 mmol) in THF (60 mL) was added TBAF (3.2 mL, 3.2 mmol, 1 M solution in THF) at −50° C. After addition, the reaction mixture was allowed to warm to −20° C. gradually (about 1 h), then quenched by adding saturated aqueous NH4Cl solution (20 mL) and extracted with EtOAc. The EtOAc extracts were washed with water, brine, dried over Na2SO4 and filtered. Concentration provided a residue, which was purified by flash chromatography over silica gel to provide the title compound 4-((1R,2S)-1-(5-(4-bromophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-2-chloro-3-methylbenzonitrile (1.10 g, 85%). 1H NMR (400 MHz, CDCl3, δ in ppm) 7.79 (d, J=8.4 Hz, 2H), 7.61 (d, J=8.4 Hz, 2H), 7.40 (d, J=8.8 Hz, 1H), 6.63 (d, J=8.8 Hz, 1H), 5.23 (d, J=8.6 Hz, 1H), 4.72 (dd, J=2.5, 8.6 Hz, 1H), 4.62 (m, 1H), 3.01 (d, J=3.5 Hz, 1H), 2.34 (s, 3H), 1.42 (d, J=6.3 Hz, 3H).

reactant | 4-((1R,2S)-1-(5-(4-bromophenyl)-1,3,4-oxadiazol-2-yl)-2-(tert-butyldimethylsilyloxy)propylamino)-2-chloro-3-methylbenzonitrile | 2.9 mmol, 1.63 g | BrC1=CC=C(C=C1)C1=NN=C(O1)[C@@H]([C@H](C)O[Si](C)(C)C(C)(C)C)NC1=C(C(=C(C#N)C=C1)Cl)C | C25H30BrClN4O2Si
reactant | TBAF | 3.2 mmol, 1 M, 3.2 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 4-((1R,2S)-1-(5-(4-bromophenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-2-chloro-3-methylbenzonitrile | 1.10 g, 85% | BrC1=CC=C(C=C1)C1=NN=C(O1)[C@@H]([C@H](C)O)NC1=C(C(=C(C#N)C=C1)Cl)C | C19H16BrClN4O2
